US04874775
N-(4-phenoxyphenyl)-N-(pyridin-3-ylmethyl)methanesulfonamide
A 5.5 g. portion of 3-(4-phenoxyphenylaminomethyl)pyridine was dissolved in dichloromethane, and reacted with 1.7 ml. of methanesulfonyl chloride in the presence of 3 g. of potassium carbonate. The mixture was stirred at ambient temperature for several days. It was diluted with dichloromethane, extracted with water, dried over magnesium sulfate, and evaporated under vacuum. The residue was triturated in diethyl ether and petroleum ether, filtered and dried to obtain 6.4 g. of the desired product, m.p. 139°-140°.

reactant | 3-(4-phenoxyphenylaminomethyl)pyridine | O(C1=CC=CC=C1)C1=CC=C(C=C1)NCC=1C=NC=CC1 | C18H16N2O
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(4-phenoxyphenyl)-N-(pyridin-3-ylmethyl)methanesulfonamide | O(C1=CC=CC=C1)C1=CC=C(C=C1)N(S(=O)(=O)C)CC=1C=NC=CC1 | C19H18N2O3S
